US08309580B2
(1) ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfinyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate
Ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate (482 mg) was dissolved in methanol (9 mL) and water (1 mL), OXONE (295 mg) was added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (25% ethyl acetate/hexane to 100% ethyl acetate/hexane) to give the title compound (232 mg, 47%) as an oil.

reactant | Ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate | 482 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CSC)NC1=CC=C(C=C1)C(=O)NCCC(=O)OCC | C32H37F3N2O4S
reactant | OXONE | 295 mg | OOS(=O)[O-].[K+]
solvent | methanol | 9 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfinyl)methyl]-5-[4-(trifluoromethyl)phenyl]furan-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate | 232 mg, 47% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CS(=O)C)NC1=CC=C(C=C1)C(=O)NCCC(=O)OCC | C32H37F3N2O5S
